US04041048
EXAMPLE 3: 2-Carbethoxy-1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine
A solution of 18.5 g. of O-[o-(1-chloroethyl)-phenethyl]-N-carbethoxyhydroxylamine in 130 ml. of ethanol was treated with 3.85 g. of potassium hydroxide in 55 ml. of ethanol according to the procedure described in Example 1. The end product was recovered by distillation collecting the fraction boiling at 115° C./0.1 mm Hg. The fraction boiling at 100° C./0.2 mm Hg which contained the by-product O-(o-vinylphenethyl)-N-carbethoxyhydroxylamine was discarded. There was thus obtained 7.8 g. of 2-carbethoxy-1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine.

reactant | O-[o-(1-chloroethyl)-phenethyl]-N-carbethoxyhydroxylamine | ClC(C)C1=C(CCONC(=O)OCC)C=CC=C1 | C13H18ClNO3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Carbethoxy-1-methyl-1,2,4,5-tetrahydro-3,2-benzoxazepine | C(=O)(OCC)N1C(C2=C(CCO1)C=CC=C2)C | C13H17NO3
